US06627651B1
To methyl 7-[4-(3-ethoxypropyl)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.28 g) dissolved methanol (5 ml) and THF (10 ml) was added a 1 N aqueous solution of sodium hydroxide (0.6 ml), and the resulting mixture was stirred at 70° C. for 5 hours. The reaction mixture was concentrated, was then neutralized with 1 N hydrochloric acid and was extracted with ethyl acetate. The organic layer was washed with water and an aqueous saturated solution of sodium chloride, and was dried with anhydrous magnesium sulfate. The resulting organic layer was evaporated under reduced pressure to remove the solvent to obtain 7-[4-(3-ethoxypropyl)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (0.12 g) as colorless crystals.

reactant | methyl 7-[4-(3-ethoxypropyl)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.28 g | C(C)OCCCC1=CC=C(OC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=C1 | C23H26O6S
reactant | methanol | 5 ml | CO | CH4O
reactant | sodium hydroxide | 0.6 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 7-[4-(3-ethoxypropyl)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 0.12 g | C(C)OCCCC1=CC=C(OC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)O)C2)C=C1 | C22H24O6S
